US04343939
4'Chloro-2[-bis(p-dimethylaminophenyl)methoxy]acetanilide
A solution of 4,4'-bis(N,N-dimethylamino)benzhydrol, methyl ether, (8.0 g, 0.028 mole), p-chloroglycolanilide (5.23 g, 0.028 mole), 170 ml of tetrahydro-furan, 120 ml of n-hexane, and 4.5 ml of glacial acetic acid was refluxed for about 8.5 hours, replacing solvent as distillate was removed. Color was then discharged by the addition of 20 drops of tetramethylguanidine and the solution was filtered hot. Hexane was added to the filtrate, yielding a light green oil. The oil was removed and the hexane solution, on cooling, gave a light blue solid. The solid was filtered, washed with petroleum ether and dried. Recrystallization from 150 ml methylcyclohexane/40 ml acetone gave a yellow-white, gummy solid. This was recrystallized from VM&P naphtha to give a fine white powder, mp 137.5°-140° C.

reactant | 4,4'-bis(N,N-dimethylamino)benzhydrol | CN(C)C1=CC=C(C(C2=CC=C(C=C2)N(C)C)O)C=C1 | C17H22N2O
reactant | methyl ether | 0.028 mole, 8.0 g | COC | C2H6O
reactant | p-chloroglycolanilide | 0.028 mole, 5.23 g | ClC1=CC=C(NC(CO)=O)C=C1 | C8H8ClNO2
reactant | tetrahydro-furan | 170 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
solvent | n-hexane | 120 ml | CCCCCC | C6H14
product | 4'Chloro-2[-bis(p-dimethylaminophenyl)methoxy]acetanilide | ClC1=CC=C(NC(COC(C2=CC=C(C=C2)N(C)C)C2=CC=C(C=C2)N(C)C)=O)C=C1 | C25H28ClN3O2
